US08865712B2
c) 3-Fluoro-2-fluoromethyl-2-hydroxy-propionic acid ethyl ester
Crude 3-fluoro-2-fluoromethyl-2-hydroxy-propionic acid (17 g) was dissolved in ethanol (400 ml) and H2SO4 (98%, 30 g) was added. The reaction mixture was refluxed for 16 h. The reaction mixture was cooled to ambient temperature and filtered. The solution was carefully treated with 30 g solid Na2CO3 and the resulting mixture was stirred for 30 min at room temperature. 400 ml DCM were added and the mixture was filtered. The solution was concentrated (50° C., 150 mbar) and further purified by distillation (82° C., 20 mbar) to give a colorless liquid.

reactant | 3-fluoro-2-fluoromethyl-2-hydroxy-propionic acid | 17 g | FCC(C(=O)O)(O)CF | C4H6F2O3
reactant | H2SO4 | 30 g | OS(=O)(=O)O | H2O4S
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | 3-Fluoro-2-fluoromethyl-2-hydroxy-propionic acid ethyl ester | C(C)OC(C(CF)(O)CF)=O | C6H10F2O3
